US07579469B2
A mixture of 2-[2-(5-bromo-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (5.0 g, 14.2 mmol), 4-hydroxyquinoline (3.08 g, 21.2 mmol) and sodium ethoxide (21 wt. % solution in ethanol, 5.3 mL, 14.2 mmol) in ethanol (120 mL) was heated at 85° C. for 14 hours. The reaction was quenched with water and concentrated in vacuo to remove most of the ethanol. The residue was diluted with methylene chloride and washed with half saturated sodium bicarbonate (NaHCO3), dried over magnesium sulfate, filtered, and concentrated in vacuo. The product was precipitated from diethyl ether-hexanes to afford 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (5.2 g, 73% yield).

reactant | 2-[2-(5-bromo-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 14.2 mmol, 5.0 g | BrC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16BrF3O2
reactant | 4-hydroxyquinoline | 21.2 mmol, 3.08 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium ethoxide | 14.2 mmol, 5.3 mL | [O-]CC.[Na+]
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 5.2 g, 73% yield | BrC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C23H23BrF3NO3
